US04096253
A solution of Cl2 (0.162 g, 2.3 mM) in 5 ml of carbon tetrachloride is added over a period of 30 min to a stirred suspension of 1,17-diacetoxy-3-methoxyestra-1,3,5(10),16-tetraene (0.77 g, 2 mM), K2CO3 (5 g) and 25 ml of CCl4 at 0°. Dilute aqueous sodium thiosulfate is then added, the layers are separated and the aqueous layer is extracted with 2 × 50 ml chloroform. The organic layers are combined, dried over MgSO4 and evaporated in vacuo. The residue is triturated with ether to give a white solid. Recrystallization from methanol gives 1-acetoxy-16α-chloro-3-methoxyestra-1,3,5(10)-trien-17-one, yield 0.64 g (76%); m.p. 194.5°-196°.

reactant | Cl2 | 2.3 mM, 0.162 g | ClCl | Cl2
reactant | 1,17-diacetoxy-3-methoxyestra-1,3,5(10),16-tetraene | 2 mM, 0.77 g | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3C12)OC(C)=O)OC | C23H28O5
reactant | K2CO3 | 5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | carbon tetrachloride | 5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-acetoxy-16α-chloro-3-methoxyestra-1,3,5(10)-trien-17-one | C(C)(=O)OC1=CC(=CC=2CC[C@H]3[C@@H]4C[C@H](C([C@@]4(C)CC[C@@H]3C12)=O)Cl)OC | C21H25ClO4
